### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries): some APIs about `expand`

### PR DESCRIPTION
**Pull request by WenrongZou**
I define an algebraic homomorphism for (mv) power series that expanding a (multi) variate power series by a non-zero factor of `p` and add some theorems following the (mv) Polynomial as inspiration. Also, I add some missing theorems in the file `MvPolynomial.Expand` compared to `Polynomial.Expand`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Expand.lean [hunk 1]
```diff
@@ -0,0 +1,103 @@
...
+
+/- TODO : In the original file of multi variate polynomial, there are two theorem about rename
+here, but we don't have rename for multi variate power series. And for `eval₂Hom`, `eval₂`
+and `aevel`, the expression does't look good. -/
+
+variable (q : ℕ) (hq : 0 < q)
+
+@[simp]
+theorem coeff_expand_smul (φ : PowerSeries R) (m : ℕ) :
+    (expand p hp φ).coeff (p * m) = φ.coeff m := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Expand.lean]: The name suggests this is about scalar multiplication, but the statement only mentions multiplication...
Did this come from the mvpoly file?

File: Mathlib/RingTheory/MvPowerSeries/Expand.lean [hunk 2]
```diff
@@ -0,0 +1,149 @@
...
+  simp [expand, pow_mul, subst_comp_subst_apply (HasSubst.X_pow hq) (HasSubst.X_pow hp),
+    subst_pow (HasSubst.X_pow hp), subst_X (HasSubst.X_pow hp)]
+
+theorem expand_mul (φ : MvPowerSeries σ R) : φ.expand (p * q) (p.mul_ne_zero hp hq) =
+    (φ.expand q hq).expand p hp :=
+  DFunLike.congr_fun (expand_mul_eq_comp p hp q hq) φ
+
+@[simp]
+theorem coeff_expand_smul (φ : MvPowerSeries σ R) (m : σ →₀ ℕ) :
+    (expand p hp φ).coeff (p • m) = φ.coeff m := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Expand.lean:98]: This one looks right.

File: Mathlib/RingTheory/PowerSeries/Expand.lean (hunk 1 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/PowerSeries/Expand.lean]: This comes from mvpoly file. I change `p • m ` to be `p * m` since all the parameters here are natural number. And I forgot to modify the name here.  Should I change the name or change `p * m` to `p • m `? I think if I change the name it will look ambiguous with `expand_mul`.

Comment (jcommelin) [reply Mathlib/RingTheory/PowerSeries/Expand.lean]:
```suggestion
theorem coeff_expand_mul (φ : PowerSeries R) (m : ℕ) :
    (expand p hp φ).coeff (p * m) = φ.coeff m := by
```
I'm not worried about the ambiguity, because of the `coeff_`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
